US08183242B2
To a solution of 2-bromo-4-nitrotoluene (23.2 mmol) in NMP (200 mL) was added sodium trifluoroacetate (8.5 g, 62.5 mmol) and Cul (8.75 g, 46 mmol) and the reaction mixture was stirred at 160° C. for 4 hours. The solution was cooled and water (300 mL) was added. The solution was filtrated and the solid was washed with ethyl ether (250 mL×3). The organic phase was washed with water and brine, dried, filtered, concentrated and purified through column chromatography to give 2-(trifluoromethyl)-4-nitrotoluene (3.12 g).

reactant | 2-bromo-4-nitrotoluene | 23.2 mmol | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | sodium trifluoroacetate | 62.5 mmol, 8.5 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | water | 300 mL | O | H2O
solvent | NMP | 200 mL | CN1CCCC1=O | C5H9NO
product | 2-(trifluoromethyl)-4-nitrotoluene | 3.12 g | FC(C1=C(C=CC(=C1)[N+](=O)[O-])C)(F)F | C8H6F3NO2
